US07087599B2
A mixture of 4-bromo-2-butyl-6-fluoro-5-methoxy-1-indanone (1.86 g, 5.94 mmol), bis(triphenylphosphine)palladium(II) chloride (208 mg, 0.297 mmol), tetramethyltin (0.989 mL, 7.128 mmol), triphenylphosphine (156 mg, 0.594 mmol), lithium chloride (504 mg, 11.88 mmol), and anhydrous N,N-dimethyl-formamide (11.9 mL) was placed under a nitrogen atmosphere, stirred, and heated in an oil bath at 100° C. for 22 hours. After cooling to room temperature, the mixture was evaporated under vacuum. The residue in EtOAc (150 mL) was washed with water (4×100 mL) and brine (50 mL), dried over MgSO4, filtered, and evaporated under vacuum to an oil (2.15 g). The crude product was purified by chromatography on EM silica gel 60 (2.5×29 cm column), eluting with CH2Cl2 (50 mL fore-run followed by 8 mL fractions). Fractions 20-28 were combined and evaporated under vacuum to provide 2-butyl-6-fluoro-5-methoxy-4-methyl-1-indanone (365 mg) as an oil.

reactant | 4-bromo-2-butyl-6-fluoro-5-methoxy-1-indanone | 5.94 mmol, 1.86 g | BrC1=C2CC(C(C2=CC(=C1OC)F)=O)CCCC | C14H16BrFO2
reactant | tetramethyltin | 7.128 mmol, 0.989 mL | C[Sn](C)(C)C
reactant | triphenylphosphine | 0.594 mmol, 156 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | 11.88 mmol, 504 mg | [Cl-].[Li+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.297 mmol, 208 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | N,N-dimethyl-formamide | 11.9 mL | CN(C=O)C | C3H7NO
product | 2-butyl-6-fluoro-5-methoxy-4-methyl-1-indanone | 365 mg | C(CCC)C1C(C2=CC(=C(C(=C2C1)C)OC)F)=O | C15H19FO2
